US05552419
A solution of ethanethiol (15 mL) and methylene chloride (15 mL) is cooled to 0° C. Aluminum trichlofide (9.62 g, 72.2 mmol) is added (the solution turns green), and the reaction is warmed to room temperature. Ethyl 2-[[4-methoxybenzenesulfonyl](isobutyl)-amino]acetate (4.75 g, 14.44 mmol) is added in methylene chloride (5 mL), and the reaction is stirred for 3.5 hours at room temperature. The reaction is then slowly quenched with water, and the crude reaction is partitioned between water and methylene chloride. The aqueous layer is extracted well with methylene chloride, the combined organic layers are dried (Na2SO4), and the solvent is evaporated. The product is purified by silica gel chromatography (25% to 50% ethyl acetate/hexane) to give ethyl 2-[[4-hydroxybenzenesulfonyl](isobutyl)amino]acetate.

reactant | ethanethiol | 15 mL | C(C)S | C2H6S
reactant | Aluminum | [Al] | Al
reactant | Ethyl 2-[[4-methoxybenzenesulfonyl](isobutyl)-amino]acetate | 14.44 mmol, 4.75 g | COC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)OCC)CC(C)C | C15H23NO5S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-[[4-hydroxybenzenesulfonyl](isobutyl)amino]acetate | OC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)OCC)CC(C)C | C14H21NO5S
